US06440956B1
(a) 5-(4-Nitrobenzamido)-2,4,6-tribromoisophthalic acid
50 9 of para-nitrobenzoic acid chloride and 75 g of 5-amino-2,4,6-tribromoisophthalic acid in 400 ml of dioxane are maintained for 18 hours at the reflux temperature. After cooling, the precipitate is filtered off, washed with 50 ml of dioxane and dried.

reactant | para-nitrobenzoic acid chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 5-amino-2,4,6-tribromoisophthalic acid | 75 g | NC=1C(=C(C(=C(C(=O)O)C1Br)Br)C(=O)O)Br | C8H4Br3NO4
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 5-(4-Nitrobenzamido)-2,4,6-tribromoisophthalic acid | [N+](=O)([O-])C1=CC=C(C(=O)NC=2C(=C(C(=C(C(=O)O)C2Br)Br)C(=O)O)Br)C=C1 | C15H7Br3N2O7
